US08283353B2
methyl 2-[(2′-cyano-2-fluorobiphenyl-4-yl)methyl]-3-oxoheptanoate
A solution of methyl 3-oxoheptanoate (7 g) in tetrahydrofuran (30 mL) was added to a mixture of sodium hydride (1.2 g) and tetrahydrofuran (80 mL) at room temperature, and the mixture was stirred at room temperature for 30 min. And then, 4′-(bromomethyl)-2′-fluorobiphenyl-2-carbonitrile (5.3 g) was added to the reaction mixture, and the reaction mixture was stirred at room temperature for 3 days. The reaction mixture was concentrated, the residue was extracted with 5% aqueous potassium hydrogensulfate solution and then with ethyl acetate, and the ethyl acetate layer was washed with saturated brine and concentrated. The residue was purified by silica gel column chromatography to give the title compound as a colorless oil (7.3 g, 90%).

reactant | methyl 3-oxoheptanoate | 7 g | O=C(CC(=O)OC)CCCC | C8H14O3
reactant | sodium hydride | 1.2 g | [H-].[Na+]
reactant | 4′-(bromomethyl)-2′-fluorobiphenyl-2-carbonitrile | 5.3 g | BrCC1=CC(=C(C=C1)C=1C(=CC=CC1)C#N)F | C14H9BrFN
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | methyl 2-[(2′-cyano-2-fluorobiphenyl-4-yl)methyl]-3-oxoheptanoate | 7.3 g, 90% | C(#N)C1=C(C=CC=C1)C1=C(C=C(C=C1)CC(C(=O)OC)C(CCCC)=O)F | C22H22FNO3
